### PR TITLE
documentation of functions.v

### LINKED ISSUE #576: Document `'split_` and `split` in functions
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L886-L887
This function creates inverses of functions `aT -> rT` when possible from an arbitrary witness function `rT -> aT`.

### LINKED ISSUE #577: Document `sigL`, `valL_`, `valLfun_` and `valL`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1843-L1848

### LINKED ISSUE #578: Document `sigR` and `valR`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1853-L1858
and rename `valLr` to `valR`, I must have made a sed mistake

### LINKED ISSUE #579: Document `sigLR`, `valLR` and `valLRfun`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L2087-L2093

### LINKED ISSUE #580: Rename `fun` to `fct`?
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L2462-L2486

There is a conflicting name convention, expecially in this file where `fun` refers to set preserving functions rather than coq functions.
I suggest to use the string `fct` for coq functions, and `fun` for set functions.

### LINKED ISSUE #581: Document `incl` and `inclT`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1240

### LINKED ISSUE #582: Document `pinv` and `'pinv_`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L2393-L2403

### LINKED ISSUE #583: Document `[fun f in A]`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L844-L846

### LINKED ISSUE #584: Document `mkfun`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1249

### LINKED ISSUE #585: Document `set_val`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1267

### LINKED ISSUE #586: Document `squash`, `unsquash` and `ssquash`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1282

### LINKED ISSUE #587: Document `finset_val` and `val_finset`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1328-L1331

### LINKED ISSUE #588: Document `glue`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1360-L1362

### LINKED ISSUE #589: Document `patch`, `restrict` and `_ \_ _`
https://github.com/math-comp/analysis/blob/0e6c432b4f1149d5c1f76b83f0cf12bd081cd109/theories/functions.v#L1701-L1729

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

- fixes #589
- fixes #580
- fixes #588
- fixes #584
- fixes #586
- fixes #581
- fixes #579
- fixes #578
- fixes #577
- fixes #577
- fixes #587
- fixes #585
- fixes #583
- fixes #582
- fixes #576 

The added documentation is far from being extensive
but we'll definitely have the opportunity to come back to it.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/functions.v [hunk 1]
```diff
@@ -2459,37 +2490,35 @@ Section function_space_lemmas.
...
-  f + g = (fun x : T => f x + g x).
+Lemma addrfctE (T : pointedType) (K : zmodType) (f g : T -> K) :
+  f + g = (fun x => f x + g x).
 Proof. by []. Qed.
 
-Lemma opprfunE (T : pointedType) (K : ringType) (f : T -> K) :
-  - f = (fun x : T => - f x).
+Lemma opprfctE (T : pointedType) (K : zmodType) (f : T -> K) :
+  - f = (fun x => - f x).
 Proof. by []. Qed.
```
Comment (CohenCyril) [inline theories/functions.v:2499]: While you're at it, no `pointedType` is required for `zmodType` (it becomes necessary because `ringType` is defined to be the type of non-trivial rings, i.e. s.t. `0 != 1`, which requires the domain of the function space to be non-empty)

File: theories/cardinality.v [hunk 2]
```diff
@@ -17,19 +17,22 @@ Require Import boolp mathcomp_extra classical_sets functions.
 (* only relations A #<= B and A #= B to compare the cardinals of two sets     *)
 (* (on two possibly different types).                                         *)
 (*                                                                            *)
-(*          A #<= B  ==  the cardinal of A is smaller or equal to the one of B*)
-(*          A #>= B  := B #<= A                                               *)
-(*           A #= B  ==  the cardinal of A is equal to the cardinal of B      *)
-(*          A #!= B  := ~~ (A #= B)                                           *)
-(*     finite_set A  ==  the set A is finite                                  *)
+(*           A #<= B ==  the cardinal of A is smaller or equal to the one of B*)
+(*           A #>= B :=  B #<= A                                              *)
```
Comment (proux01) [inline theories/cardinality.v:21]: Nitpicking : why those extra spaces on the right of `==` (or `:=`)?

Comment (affeldt-aist) [reply theories/cardinality.v:21]: A few lines below `<->` is used. The purpose of the extra space is for alignment I presume.

Comment (proux01) [reply theories/cardinality.v:21]: In mathcomp (c.f., ssralg.v for instance), only the `<->` entries get the extra space, but why not.

**Comment by CohenCyril** [comment]
#578 has not been completely addressed: a renaming is missing

**Comment by affeldt-aist** [comment]
> #578 has not been completely addressed: a renaming is missing

I didn't see the comment but that explains the strange naming that was puzzling me.
